US05821256
A solution of 6 g of 2-(4-aminophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)acetamide and 0.5 g of titanium tetrachloride in 100 ml of methanol is treated with 1 ml of freshly distilled acetaldehyde. 4 g of sodium cyanoborohydride are then added and the mixture is stirred for 30 hours. Half-concentrated hydrochloric acid is added, the mixture is worked up in the customary manner and 2-(4-ethylaminophenyl)-2-(1,3-dihydro-1,3-dioxo-isoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)-acetamide is obtained.

reactant | 2-(4-aminophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)acetamide | 6 g | NC1=CC=C(C=C1)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC=1C=C2C(NC(C2=CC1)=O)=O | C26H25N3O6S
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 4 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | titanium tetrachloride | 0.5 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-(4-ethylaminophenyl)-2-(1,3-dihydro-1,3-dioxo-isoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)-acetamide | C(C)NC1=CC=C(C=C1)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC=1C=C2C(NC(C2=CC1)=O)=O | C28H29N3O6S
